US04386034
(D) (S)-3-Amino-2-oxo-1-azetidinesulfonic acid
(S)-3-[(t-Butoxycarbonyl)amino]-2-oxo-1-azetidinesulfonic acid, tetra-n-butylammonium salt (3.06 g) is dissolved in 18 ml of 97% formic acid, stirred for 4 hours, diluted with methylene chloride, filtered, washed and dried to give 0.52 g of the title compound; melting point 208°-210° C., dec.; [α]D21 =-39.9[c=2, water].

reactant | (S)-3-[(t-Butoxycarbonyl)amino]-2-oxo-1-azetidinesulfonic acid, tetra-n-butylammonium salt | 3.06 g | C(CCC)[N+](CCCC)(CCCC)CCCC.C(C)(C)(C)OC(=O)N[C@@H]1C(N(C1)S(=O)(=O)[O-])=O
solvent | formic acid | 18 ml | C(=O)O | CH2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (S)-3-Amino-2-oxo-1-azetidinesulfonic acid | 0.52 g | N[C@@H]1C(N(C1)S(=O)(=O)O)=O | C3H6N2O4S
